US08541592B2
Methyl 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoate
A mixture of 5-(4-bromophenyl)-2-((S)-1-(4fluorophenyl)ethylamino)-5-methylthiazol-4(5H)-one (0.79 g, 1.9 mmol), triphenylphosphine (Aldrich, 0.15 g, 0.58 mmol), palladium acetate (Aldrich, 0.11 g, 0.48 mmol), potassium acetate (Aldrich, 0.24 g, 2.4 mmol), in MeOH (3 mL) and DMF (3 mL) was pressurized with carbon monoxide, purged twice with CO and then heated to 100° C. overnight at 40-50 psi of CO. After the reaction mixture was cooled to ambient temp., then contents were filtered through Celite. The Celite pad was washed with CH2Cl2, and the organic phase was dried over Na2SO4, concentrated in vacuo. The crude material was purified using silica gel chromatography. MS: 387 (M+1).

reactant | 5-(4-bromophenyl)-2-((S)-1-(4fluorophenyl)ethylamino)-5-methylthiazol-4(5H)-one | 1.9 mmol, 0.79 g | BrC1=CC=C(C=C1)C1(C(N=C(S1)N[C@@H](C)C1=CC=C(C=C1)F)=O)C | C18H16BrFN2OS
reactant | triphenylphosphine | 0.58 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium acetate | 2.4 mmol, 0.24 g | C(C)(=O)[O-].[K+]
reactant | carbon monoxide | [C]=O | CO
solvent | MeOH | 3 mL | CO | CH4O
catalyst | palladium acetate | 0.48 mmol, 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(2-((S)-1-(4-fluorophenyl)ethylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)benzoate | FC1=CC=C(C=C1)[C@H](C)NC=1SC(C(N1)=O)(C)C1=CC=C(C(=O)OC)C=C1 | C20H19FN2O3S
